US05925662
1.6. 2-(2-Phenylmethoxy-3,3,3-trifluoropropyl)-6-ethoxycarbonylamino-3,4-dihydro-2H-1-benzopyran
A solution of 3.6 g (10 mmol) of 2-(2-phenylmethoxy-3,3,3-trifluoropropyl)-6-amino-3,4-dihydro-2H-1-benzopyran in 34 ml of a 9/1 mixture of tetrahydrofuran and water is reacted for 20 min with 1.1 ml (11 mmol) of ethyl chloroformate and 1.3 g (15 mmol) of sodium hydrogencarbonate. The mixture is then diluted with water and the product is extracted with dichloromethane. The organic phase is dried over sodium sulfate and concentrated under reduced pressure. By chromatography of the residue on a silica column using a 20/80 mixture of cyclohexane and dichloromethane, 4.2 g of product are obtained.

reactant | 2-(2-phenylmethoxy-3,3,3-trifluoropropyl)-6-amino-3,4-dihydro-2H-1-benzopyran | 10 mmol, 3.6 g | C1(=CC=CC=C1)COC(CC1OC2=C(CC1)C=C(C=C2)N)C(F)(F)F | C19H20F3NO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | ethyl chloroformate | 11 mmol, 1.1 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydrogencarbonate | 15 mmol, 1.3 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 2-(2-Phenylmethoxy-3,3,3-trifluoropropyl)-6-ethoxycarbonylamino-3,4-dihydro-2H-1-benzopyran | C1(=CC=CC=C1)COC(CC1OC2=C(CC1)C=C(C=C2)NC(=O)OCC)C(F)(F)F | C22H24F3NO4
